US05510362
1. 4-(1H-Tetrazol-5-ylmethyl)nitrobenzene
Triethylamine hydrochloride (41.25 g, 0.3 mol) and sodium azide (39 g, 0.6 mol) were added to a solution of 4-nitrophenylacetonitrile (32.4 g, 0.2 mmol) in anhydrous N-methylpyrrolidin-2-one (500 ml) and the mixture heated at 150° C. for 4h. The solution was cooled to room temperature and poured into 2N HCl (2 l) whereupon a solid crystallised out. The product was filtered, washed with water (500 ml) and hexane and dried in vacuo (37.4 g); δ (250 MHz, CDCl3) 4.34 (2H, s, CH2), 7.42 (2H, d, J=8.7 Hz, Ar--H), 8.12 (2H, d, J=8.7 Hz, Ar--H).

reactant | Triethylamine hydrochloride | 0.3 mol, 41.25 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 0.6 mol, 39 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-nitrophenylacetonitrile | 0.2 mmol, 32.4 g | [N+](=O)([O-])C1=CC=C(C=C1)CC#N | C8H6N2O2
reactant | HCl | 2N, 2 l | Cl | ClH
solvent | N-methylpyrrolidin-2-one | 500 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(1H-Tetrazol-5-ylmethyl)nitrobenzene | N1N=NN=C1CC1=CC=C(C=C1)[N+](=O)[O-] | C8H7N5O2
